US07507736B2
a) [5-(1-Isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone dihydrochloride
A solution of 4-[5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester (800 mg, 1.7 mmol) in ethyl acetate (25 ml) was treated with hydrogen chloride (5M in ethyl acetate, 12 ml) and the mixture stirred 72 h at room temperature. The resulting suspension was cooled to 0° C. (ice-bath), diethyl ether (2 ml) added and the mixture stirred 1 h. The precipitate was filtered and dried under vacuum to afford the title compound as an off-white solid. MS (m/z): 371.3 (M+H)+.

reactant | 4-[5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester | 1.7 mmol, 800 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C=1NC2=CC=C(C=C2C1)OC1CCN(CC1)C(C)C | C26H38N4O4
reactant | hydrogen chloride | 5M, 12 ml | Cl | ClH
reactant | diethyl ether | 2 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | [5-(1-Isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone dihydrochloride | Cl.Cl.C(C)(C)N1CCC(CC1)OC=1C=C2C=C(NC2=CC1)C(=O)N1CCNCC1 | InChI=1S/C21H30N4O2.2ClH/c1-15(2)24-9-5-17(6-10-24)27-18-3-4-19-16(13-18)14-20(23-19)21(26)25-11-7-22-8-12-25;;/h3-4,13-15,17,22-23H,5-12H2,1-2H3;2*1H
